US06997997B1
A 5 liter jacketed flask equipped with a mechanical stirrer was charged with 1062 grams of sodium azide, 1972 ml of water, and 2450 grams of 3-bromomethyl-3-methyloxetane (supplied by AmeriBrom, Inc. of New York). This mixture was brought to reflux with vigorous mixing. After 48 hours the mixture was cooled to room temperature. The organic layer was separated off and washed three times with 1000 ml of water before being dried over molecular sieves to yield pure 3-azidomethyl-3-methyloxetane at 85% yield.

reactant | sodium azide | 1062 grams | [N-]=[N+]=[N-].[Na+]
reactant | 3-bromomethyl-3-methyloxetane | 2450 grams | BrCC1(COC1)C | C5H9BrO
solvent | water | 1972 ml | O | H2O
product | 3-azidomethyl-3-methyloxetane | 85% yield | N(=[N+]=[N-])CC1(COC1)C | C5H9N3O
